US04745116
A suspension of 4-hydroxy-4-ethyl-2-pyrone (360 mg, 0.00257 mol), dimethyl sulphate (0.3 ml) and potassium carbonate (1 gm) in 2-butanone was heated at reflux with stirring for 7 hours. The mixture was cooled, filtered and the filtrate was evaporated to give an oil. This oil was further purified by column chromatography (Whatman LPS-II silica gel, 30% ethyl acetate:pet. ether 30-60) to yield 4-methoxy-6-ethyl-2-pyrone (370 mg), m.p. 54°-55° C., IR (KBr): 1730, 1710, 1650, 1570 cm-1. Anal. calcd. for C8H10O3 : C, 62.33, H, 6.54. Found: C, 62.26, H, 6.55.

reactant | 4-hydroxy-4-ethyl-2-pyrone | 0.00257 mol, 360 mg | OC1(CC(OC=C1)=O)CC | C7H10O3
reactant | dimethyl sulphate | 0.3 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 1 gm | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 4-methoxy-6-ethyl-2-pyrone | 370 mg | COC1=CC(OC(=C1)CC)=O | C8H10O3
